US07910592B2
A flask was charged with methyl {3-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-chloropyridin-3-yl]-4-methoxyphenyl}acetate (42 mg, 0.0681 mmol), cyclopropyl boronic acid (58.5 mg, 0.681 mmol), 1,1′-bis(di-t-butylphosphino)ferrocene palladium dichloride (8.9 mg, 0.014 mmol), THF (1 mL), and 1M K2CO3 (1 mL, 1 mmol). The reaction was degassed with N2, and heated to 60° C. for 8 hours. The reaction was then cooled to room temperature, diluted with EtOAc (35 mL) and washed with water and brine (10 mL each). The organic layer was dried (Na2SO4), filtered, and concentrated. Purification of the residue by flash chromatography (0 to 70% EtOAc/hexanes) afforded methyl {3-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-cyclopropylpyridin-3-yl]-4-methoxyphenyl}acetate. LCMS=623-4 (M+H)+. 1H NMR (500 MHz, CDCl3): δ 6.90-7.84 (m, 8H), 4.82-5.66 (m, 2H), 3.57-4.13 (m, 10H), 2.06 (m, 1H), 1.00-1.06 (m, 4H), 0.62 (bs, 3H).

reactant | methyl {3-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-chloropyridin-3-yl]-4-methoxyphenyl}acetate | 0.0681 mmol, 42 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)CC(=O)OC)Cl)C)(F)F | C28H23ClF6N2O5
reactant | cyclopropyl boronic acid | 0.681 mmol, 58.5 mg | C1(CC1)B(O)O | C3H7BO2
reactant | K2CO3 | 1 mmol, 1M, 1 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | 1,1′-bis(di-t-butylphosphino)ferrocene palladium dichloride | 0.014 mmol, 8.9 mg | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | methyl {3-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-cyclopropylpyridin-3-yl]-4-methoxyphenyl}acetate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)CC(=O)OC)C1CC1)C)(F)F | C31H28F6N2O5
